US06420418B1
Step B 2-Methyl-4-methylene-2-tetrahydrofuroic Acid
At 0° C., to a solution of 2-methyl-4-methylene-2-tetrahydrofuroic acid, tert-butyl ester dissolved in 0.3 mL dichloromethane was added 461 mL of a 1:1 solution of trifluoroacetic acid and dichloromethane. After 20 min, the ice bath was removed and the reaction mixture allowed to stir at room temperature for 5 h. The excess trifluoroacetic acid was removed by a stream of nitrogen, and the residue coevaporated with dichloromethane 3 times. The crude product was chromatographed via silica gel (gradient elution 0-12% MeOH/CH2Cl2) to give 55 mg of the desired acid as a glass (77%). Mass Spectrum: EI m/e 142 (M)+.

reactant | 2-methyl-4-methylene-2-tetrahydrofuroic acid, tert-butyl ester | CC1(OCC(C1)=C)C(=O)OC(C)(C)C | C11H18O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
product | 2-Methyl-4-methylene-2-tetrahydrofuroic Acid | 55 mg, 77% | CC1(OCC(C1)=C)C(=O)O | C7H10O3
